US04282365
6,11-Dihydro-11-methylsulfinyldibenz[b,e]oxepin-2-carboxylic Acid
Dissolve with warming 380 mg. of 6,11-dihydro-11-methylthiodibenz[b,e]oxepin-2-carboxylic acid in 38 ml. of glacial acetic acid. Place the reaction mixture in an oil bath at 40° C. and add 1.5 ml. of 30% hydrogen peroxide. Stir the mixture at 40° C. for 3 1/2 hours until the solution clears. Dilute with 300 ml. of water and separate the precipitate by filtration to obtain the title product.

reactant | 6,11-dihydro-11-methylthiodibenz[b,e]oxepin-2-carboxylic acid | CSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C16H14O3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,11-Dihydro-11-methylsulfinyldibenz[b,e]oxepin-2-carboxylic Acid | CS(=O)C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C16H14O4S
